US05362480
N-decyl galactosylamine
β-D-galactose (10 g, 1 eq), decylamine (8.7 g, 1 eq), and water (2 g, 3eq) were heated in a reaction flask for 20 min at 80° C. Methanol/ethyl ether (50 v/50 v) was added, the product was filtered, washed with ethyl ether (2×50 ml) and dried, to give a 90% yield.

reactant | β-D-galactose | 10 g, 1 eq | O[C@H]1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO | C6H12O6
reactant | decylamine | 8.7 g, 1 eq | C(CCCCCCCCC)N | C10H23N
reactant | water | 2 g, 3eq | O | H2O
solvent | Methanol ethyl ether | CO.C(C)OCC
product | N-decyl galactosylamine | 90% yield | C(CCCCCCCCC)NC1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO | C16H33NO5
